US05189042
17-Ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-azido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
A solution of 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-azido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2, 3,10,16-tetraone (55 mg), tetrakistriphenylphosphine palladium (10 mg), and acetic acid (10 μl) in 3 ml of dry toluene is stirred for 5 min at room temperature under nitrogen atmosphere. To this yellow solution is added tributyltin hydride (30 μl) and stirred an additional 45 min at room temperature. The reaction mixture is subjected to column chromatography on silica gel (elute first with hexane and then with 50% ethyl acetate/hexane) to give the title compound.

reactant | 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-azido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2, 3,10,16-tetraone | 55 mg | C(C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])OC)C)C)=O | C43H65FN4O10
reactant | acetic acid | 10 μl | C(C)(=O)O | C2H4O2
reactant | tributyltin hydride | 30 μl | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 17-Ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-azido-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo [22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])OC)C)C)=O | C43H67FN4O10
